US08217065B2
G. 3-(4-{6-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionic acid
A mixture of methyl 3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionate (35 mg, 73 pmol) and IN NaOH (174 μL, 174 μmol) in 5 mL of 2:1 water/methanol and 5 mL THF was heated at 50° C. for 4 h. The solvent was removed under reduced pressure and the residue was stirred with water, and neutralized with 174 μL of 1N HCl. The precipitate was filtered, washed with water, and dried to the title compound. H1-NMR (DMSO-d6): δ ppm 12.17 (s, broad, 1H), 11.62 (s, 1H), 8.08 (m, 3H), 7.76 (m, 2H), 7.19 (d, J=8.8 Hz, 2H), 7.06 (s, 2H), 6.46 (s, 1H), 3.88 (s, 3H), 2.82 (t, J=7.4 Hz, 2H), 2.58 (t, J=7.6 Hz, 2H), 2.12 (s, 6H). MS: m/z 468.2 (M+1); Retention time=1.33 min (Method 10). High Res MS (M+H): theory 468.1923, measured 468.1918.

reactant | methyl 3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionate | 73 pmol, 35 mg | COC1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1C)CCC(=O)OC)C | C29H27N3O4
reactant | NaOH | 174 μmol, 174 μL | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water methanol | 5 mL | O.CO
product | 3-(4-{6-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionic acid | COC1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1C)CCC(=O)O)C | C28H25N3O4
